US08242130B2
HCl (0.4 mL, 2 N) was added to 4-isoquinolin-3-yl-phenol (0.044 g, 0.2 mmol) and the solution was heated at 60° C. for 10 min, resulting in a yellow solid. The reaction mixture was evaporated to dryness to give 4-(isoquinolin-3-yl)phenol hydrochloride (0.45 g, 77%). MS (ES) m/z: 222.96 (M+1), 221.95 (M); 13C-NMR (DMSO-d6): δ 180.2, 149.9, 138.8, 130.0, 129.6, 129.5, 127.8, 126.7, 116.7.

reactant | HCl | 2 N, 0.4 mL | Cl | ClH
reactant | 4-isoquinolin-3-yl-phenol | 0.2 mmol, 0.044 g | C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)O | C15H11NO
product | 4-(isoquinolin-3-yl)phenol hydrochloride | 0.45 g, 77% | Cl.C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)O | InChI=1S/C15H11NO.ClH/c17-14-7-5-11(6-8-14)15-9-12-3-1-2-4-13(12)10-16-15;/h1-10,17H;1H
